US08314087B2
2-(5-Bromo-2-oxopyridin-1(2H)-yl)propanoic acid.
To a solution of ethyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)propanoate (5.0 g, 18 mmol) in 40 mL of 1:1 THF/MeOH are rt was added 25 mL of 1N NaOH. The reaction was stirred at rt for 5 hours and was then acidified with 2N HCl to pH˜2. The solid formed was collected and was washed with water and EtOAc to give white solid (4.2 g, 94% yield) as desired product. MS (ESI pos. ion) m/z (MH+): 245.9. Calc'd Exact Mass for C8H8BrNO3: 244.97.

reactant | ethyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)propanoate | 18 mmol, 5.0 g | BrC=1C=CC(N(C1)C(C(=O)OCC)C)=O | C10H12BrNO3
reactant | NaOH | 1N, 25 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | THF MeOH | 40 mL | C1CCOC1.CO
product | 2-(5-Bromo-2-oxopyridin-1(2H)-yl)propanoic acid | BrC=1C=CC(N(C1)C(C(=O)O)C)=O | C8H8BrNO3
